US09427475B2
Step B: benzyl 8-({(12S)-1,26-bis[(α-L-fucopyranosyl)oxy]-4,11,18,23-tetraoxo-3,10,17,24-tetraazahexacosan-12-yl}amino)-8-oxooctanoate
In a 40 mL vial was added N2-{8-(benzyloxy)-8-oxooctanoyl}-N6-[6-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexanoyl]-L-lysine (100 mg, 0.141 mmol) and DMF (5 mL). To the above solution at 0° C. was added EDC (40.5 mg, 0.211 mmol) and HOBt (23.7 mg, 0.155 mmol). The reaction was warmed to rt and stirred at rt for 20 min. To the above mixture was added 6-amino-N-{2-[(α-L-fucopyranosyl)oxy]ethyl}hexanamide (45.1 mg, 0.141 mmol). After stirring at rt for 18 hr, the mixture was concentrated. The residue was purified by flash chromatography eluting with 0-40% AcCN in water to give the title compound. UPLC Method B: m/e=1012.6348 [M+1]; Rt=3.28 min.

reactant | N2-{8-(benzyloxy)-8-oxooctanoyl}-N6-[6-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexanoyl]-L-lysine | 0.141 mmol, 100 mg | C(C1=CC=CC=C1)OC(CCCCCCC(=O)N[C@@H](CCCCNC(CCCCC(=O)NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)=O)C(=O)O)=O | C35H55N3O12
reactant | EDC | 0.211 mmol, 40.5 mg
reactant | HOBt | 0.155 mmol, 23.7 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 6-amino-N-{2-[(α-L-fucopyranosyl)oxy]ethyl}hexanamide | 0.141 mmol, 45.1 mg | NCCCCCC(=O)NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C | C14H28N2O6
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | benzyl 8-({(12S)-1,26-bis[(α-L-fucopyranosyl)oxy]-4,11,18,23-tetraoxo-3,10,17,24-tetraazahexacosan-12-yl}amino)-8-oxooctanoate | [C@@H]1([C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)OCCNC(CCCCCNC([C@H](CCCCNC(CCCCC(NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)=O)=O)NC(CCCCCCC(=O)OCC1=CC=CC=C1)=O)=O)=O | C49H81N5O17
